US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 2,4-dichlorobenzeneboronic acid were coupled in the same way as in Example 30 to give 2-[3-(2′,4′-dichloro-2-fluorobiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol as an off-white solid (4 mg, 3%): m/z (ES+) 434 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 2,4-dichlorobenzeneboronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | 2-[3-(2′,4′-dichloro-2-fluorobiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 4 mg, 3% | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)F | C22H16Cl2F2N2O
